US06482951B2
To a solution of 2-(Benzhydrylidene-amino)-3-cyclooctyl-propionic acid tert-butyl ester (2.00 g) in methanol (15 mL) was added 10N HCl solution (30 mL) and the mixture heated to reflux. After 20 h, the mixture was allowed to cool to room temperature, diluted with 20 mL of water, transferred to a separatory funnel and washed with ethyl acetate. The aqueous layer was then neutralized with 10N sodium hydroxide solution and further cooled to 0° C. The white solid was filtered off and air dried to give 590 mg of 2-Amino-3-cyclooctyl-propionic acid.

reactant | 2-(Benzhydrylidene-amino)-3-cyclooctyl-propionic acid tert-butyl ester | 2.00 g | C(C)(C)(C)OC(C(CC1CCCCCCC1)N=C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C28H37NO2
reactant | HCl | 10N, 30 mL | Cl | ClH
solvent | methanol | 15 mL | CO | CH4O
solvent | water | 20 mL | O | H2O
product | 2-Amino-3-cyclooctyl-propionic acid | 590 mg | NC(C(=O)O)CC1CCCCCCC1 | C11H21NO2
